US08461160B2
Starting from (S)-3-amino-3-(3-nitro-phenyl)-butyric acid methyl ester (21 mmole) and tert-butyl [(methylamino)carbonothioyl]carbamate, the product [(S)-1,4-dimethyl-4-(3-nitro-phenyl)-6-oxo-1,4,5,6-tetrahydro-pyrimidin-2-yl]-carbamic acid tert-butyl ester (7.22 g) was obtained as white solid. MS (ESI): m/z=361.4 [M−H]−.

reactant | (S)-3-amino-3-(3-nitro-phenyl)-butyric acid methyl ester | 21 mmole | COC(C[C@@](C)(C1=CC(=CC=C1)[N+](=O)[O-])N)=O | C11H14N2O4
reactant | tert-butyl [(methylamino)carbonothioyl]carbamate | CNC(=S)NC(OC(C)(C)C)=O | C7H14N2O2S
product | [(S)-1,4-dimethyl-4-(3-nitro-phenyl)-6-oxo-1,4,5,6-tetrahydro-pyrimidin-2-yl]-carbamic acid tert-butyl ester | 7.22 g | C(C)(C)(C)OC(NC=1N(C(C[C@](N1)(C1=CC(=CC=C1)[N+](=O)[O-])C)=O)C)=O | C17H22N4O5
